US04061656
11.8 G. of 4-bromo-3,5-dimethylthiophene-2-carboxaldehyde was dissolved in 250 ml. of dry ethanol and stirred at 20° C. 0.52 G. of sodium borohydride was added and the resulting solution was stirred for 30 minutes, then poured into ice water and extracted with ethyl ether. The combined ether extracts were washed with a solution of 50% sodium carbonate and a saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated. Crystallization from cold hexane yielded 4-bromo-3,5-dimethyl-2-hydroxymethylthiophene, m.p. 85°-90° C.

reactant | 4-bromo-3,5-dimethylthiophene-2-carboxaldehyde | BrC=1C(=C(SC1C)C=O)C | C7H7BrOS
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-bromo-3,5-dimethyl-2-hydroxymethylthiophene | BrC=1C(=C(SC1C)CO)C | C7H9BrOS
